US08492582B2
Potassium carbonate (0.31 g) and 1-(methylsulfonyl)piperidin-4-yl methanesulfonate (0.46 g) were added to an N,N-dimethylacetamide (5 mL) solution of methyl 2,4-dihydroxybenzoate (0.25 g), followed by stirring at 90° C. for 1 hour. The reaction mixture was cooled to room temperature, and then sodium iodide (0.045 g) was added thereto, followed by stirring at 90° C. for 1 hour. The reaction mixture was cooled to room temperature, and then potassium carbonate (0.10 g) and 1-(methylsulfonyl)piperidin-4-yl methanesulfonate (0.12 g) were added thereto, followed by stirring at 90° C. for 1 hour. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a 10% aqueous solution of citric acid and saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-60% hexane/ethyl acetate] to obtain 0.19 g of methyl 2-hydroxy-4-((1-(methylsulfonyl)piperidin-4-yl)oxy)benzoate as a white solid.

reactant | Potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(methylsulfonyl)piperidin-4-yl methanesulfonate | 0.46 g | CS(=O)(=O)OC1CCN(CC1)S(=O)(=O)C | C7H15NO5S2
reactant | methyl 2,4-dihydroxybenzoate | 0.25 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | sodium iodide | 0.045 g | [I-].[Na+]
reactant | potassium carbonate | 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(methylsulfonyl)piperidin-4-yl methanesulfonate | 0.12 g | CS(=O)(=O)OC1CCN(CC1)S(=O)(=O)C | C7H15NO5S2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | methyl 2-hydroxy-4-((1-(methylsulfonyl)piperidin-4-yl)oxy)benzoate | 0.19 g | OC1=C(C(=O)OC)C=CC(=C1)OC1CCN(CC1)S(=O)(=O)C | C14H19NO6S
